US04902794
In the manner given in Example 11, a solution of 1,3-dihydro-6-(methylsulfonyl)-8-bromo-5-(m-fluorophenyl)-2H-1,4-benzodiazepine-2-thione and hydroxyacetic acid hydrazide in n-butyl alcohol was refluxed to give 7-(methylsulfonyl)-9-bromo-1-(hydroxymethyl)-6-(m-fluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1,3-dihydro-6-(methylsulfonyl)-8-bromo-5-(m-fluorophenyl)-2H-1,4-benzodiazepine-2-thione | CS(=O)(=O)C1=CC(=CC2=C1C(=NCC(N2)=S)C2=CC(=CC=C2)F)Br | C16H12BrFN2O2S2
reactant | hydroxyacetic acid hydrazide | OCC(=O)NN | C2H6N2O2
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | 7-(methylsulfonyl)-9-bromo-1-(hydroxymethyl)-6-(m-fluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CS(=O)(=O)C1=CC(=CC2=C1C(=NCC=1N2C(=NN1)CO)C1=CC(=CC=C1)F)Br | C18H14BrFN4O3S
